US09233979B2
To a stirred solution of (R)-1-(3-amino-4-chloro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (0.06 g, 0.18 mmol) in methanol (2.0 mL) was added aqueous acetaldehyde (0.025 mL, 35 wt. % in water, 0.20 mmol) followed by sodium cyanoborohydride (0.03 g, 0.54 mmol) and stirred at room temperature for 12 h. After confirming the completion of reaction by TLC, the reaction mixture was acidified with 1.5 N HCl and concentrated under reduced pressure. The crude product was dissolved in ethyl acetate, washed with 10% NaOH followed by water and brine solution. The organic layer was concentrated under reduced pressure and crude product was purified by preparative HPLC to afford (R)-1-(4-chloro-3-(ethylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (0.021 g, 32.0%). 1H NMR (ppm, 400 MHz, DMSO-d6): δ 11.92 (s, 1H), 9.05 (s, 1H), 7.44 (s, 1H), 7.37-7.32 (m, 4H), 7.26-7.22 (m, 2H), 5.44 (t, J=5.6 Hz, 1H), 4.84 (m, 1H), 3.28-3.23 (m, 2H), 1.39 (d, J=8.00 Hz, 3H), 1.20 (t, J=6.8 Hz, 3H). MS ES calc'd. for C17H19ClN6O2 [M+H]+ 359. Found: 359.

reactant | (R)-1-(3-amino-4-chloro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.18 mmol, 0.06 g | NC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)Cl | C15H15ClN6O
reactant | acetaldehyde | 0.20 mmol, 0.025 mL | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.54 mmol, 0.03 g | C(#N)[BH3-].[Na+]
reactant | HCl | 1.5 N | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
product | (R)-1-(4-chloro-3-(ethylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.021 g, 32.0% | ClC1=NC(=CC2=C1C(=NN2)NCC)NC(=O)N[C@H](C)C2=CC=CC=C2 | C17H19ClN6O
